US05811427
In a 50 ml round-bottomed three-necked flask equipped with a 12-inch Vigraux column and a Dean Stark trap assembly were placed methyl 4-amino-3-hydroxybenzoate (10.0 g, 60 mmole), trimethylorthoacetate (10.8 g, 90 mmole), and concentrated sulfuric acid (0.25 g, 2.6 mmole). The resulting well-stirred mixture was heated at 115° C. until approximately 8 ml of methanol were collected in the Dean Stark trap. The reaction mixture was heated at 160° C. for another 60 minutes. The reaction mixture was cooled to room temperature and dissolved in ethyl acetate. The resulting organic solution was extracted sequentially with saturated aqueous sodium bicarbonate (1×100 ml), water (2×50 ml), brine, and dried over anhydrous magnesium sulfate. The solvent was removed in the rotary evaporator yielding 7.1 g of the expected methyl 2-methylbenzoxazole-6 carboxylate used as such in the next step.

reactant | methyl 4-amino-3-hydroxybenzoate | 60 mmole, 10.0 g | NC1=C(C=C(C(=O)OC)C=C1)O | C8H9NO3
reactant | trimethylorthoacetate | 90 mmole, 10.8 g | CC(C([O-])([O-])[O-])(C)C
catalyst | sulfuric acid | 2.6 mmole, 0.25 g | S(O)(O)(=O)=O | H2O4S
solvent | methanol | approximately 8 ml | CO | CH4O
product | methyl 2-methylbenzoxazole-6 carboxylate | 7.1 g | CC=1OC2=C(N1)C=CC(=C2)C(=O)OC | C10H9NO3
